US05538966
Step A: 2-(2-Bromoethyl)-6-chloro-3,4-dihydro-4-hydroxy-2H-thieno[3,2-e]-1,2-thiazine 1,1-dioxide
To a solution of 6-chloro-3,4-dihydro-4-hydroxy-2H-thieno[3,2-e]-1,2-thiazine 1,1-dioxide (2.0 g, 8.37 mmol) in DMF (50 mL) was added sodium hydride (0.37 g, 9.2 mmol), after stirring for 30 min 1,2-dibromoethane (2.36 g, 16.7 mmol) was added and this mixture was stirred at room temperature for 72 hr. The reaction mixture was poured into water and the aqueous mixture was extracted with ether. The combined extracts were dried (MgSO4) and evaporated to an oil which was purified by column chromatography (silica, 30% ethyl acetate/hexane) to give 1.52 g (53%) of the desired product as a viscous syrup which was used in the next step.

reactant | 6-chloro-3,4-dihydro-4-hydroxy-2H-thieno[3,2-e]-1,2-thiazine 1,1-dioxide | 8.37 mmol, 2.0 g | ClC1=CC=2C(CNS(C2S1)(=O)=O)O | C6H6ClNO3S2
reactant | sodium hydride | 9.2 mmol, 0.37 g | [H-].[Na+]
reactant | 1,2-dibromoethane | 16.7 mmol, 2.36 g | BrCCBr | C2H4Br2
reactant | water | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 2-(2-Bromoethyl)-6-chloro-3,4-dihydro-4-hydroxy-2H-thieno[3,2-e]-1,2-thiazine 1,1-dioxide | 1.52 g, 53% | BrCCN1S(C2=C(C(C1)O)C=C(S2)Cl)(=O)=O | C8H9BrClNO3S2
